US08420816B2
(R)-1-(3-methyl-2-(3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoyl)azetidine-3-carbonitrile
(R)-3-Methyl-2-(3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoic acid (80 mg, 0.29 mmol), HOBt (54 mg, 0.35 mmol) and EDC (84 mg, 0.44 mmol) were combined in DMF (2 mL). Azetidine-3-carbonitrile HCl salt (52 mg, 0.44 mmol) and N-methylmorpholine (130 μL, 1.17 mmol) were added, and the solution was stirred at room temperature for 2 h. Purification by preparative HPLC (10-45% AcCN/water with 0.035% TFA) followed by purification by silica gel chromatography (8% MeOH/DCM) gave the title compound as a white solid (28 mg, 28%). 1H NMR (500 MHz, DMSO-d6) δ 0.90 (dd, J=6.5, 2.0 Hz, 3H), 1.06 (dd, J=6.5, 2.0 Hz, 3H), 2.42-2.51 (m, 1H), 3.61-3.75 (m, 1H), 4.15-4.68 (m, 4H), 4.95-5.21 (m, 3H), 7.09 (t, J=5.0 Hz, 1H), 7.81 (d, J=12.5 Hz, 1H), 8.27 (t, J=5.0 Hz, 1H). [M+H] calc'd for C18H19N5O2, 338; found, 338.

reactant | (R)-3-Methyl-2-(3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoic acid | 0.29 mmol, 80 mg | CC([C@H](C(=O)O)N1CC=2C=CN=C3C2C(C1=O)=CN3)C | C14H15N3O3
reactant | HOBt | 0.35 mmol, 54 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.44 mmol, 84 mg
reactant | Azetidine-3-carbonitrile HCl salt | 0.44 mmol, 52 mg | Cl.N1CC(C1)C#N
reactant | N-methylmorpholine | 1.17 mmol, 130 μL | CN1CCOCC1 | C5H11NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (R)-1-(3-methyl-2-(3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoyl)azetidine-3-carbonitrile | 28 mg, 28% | CC([C@H](C(=O)N1CC(C1)C#N)N1CC=2C=CN=C3C2C(C1=O)=CN3)C | C18H19N5O2
